US05426226
Preparation of 2-Di-n-propylamino-8-(5-hydroxypyrazol-3-yl)-1,2,3,4-tetrahydronaphthalene
Hydrazine (1 ml, 32 mmole) was added to a solution of 500 mg (1.34 mmole) of 2-di-n-propylamino-8-t-butoxycarbonylacetyl-1,2,3,4-tetrahydronaphthalene in 25 ml methanol and stirred at room temperature for for 24 hours. The product was isolated by concentrating the reaction mixture followed by flash chromatography, eluting with 1:1 CH2Cl2 :MeOH, and finally crystallizing from MeOH/EtOAc, m.p. 214°-216° C. Analysis: Theory: C, 72.81, H, 8.68, N, 13.41; Found: C, 73.01, H, 8.81, N, 13.27.

reactant | Hydrazine | 32 mmole, 1 ml | NN | H4N2
reactant | 2-di-n-propylamino-8-t-butoxycarbonylacetyl-1,2,3,4-tetrahydronaphthalene | 1.34 mmole, 500 mg | C(CC)N(C1CC2=C(C=CC=C2CC1)C(CC(=O)OC(C)(C)C)=O)CCC | C23H35NO3
solvent | methanol | 25 ml | CO | CH4O
product | 2-Di-n-propylamino-8-(5-hydroxypyrazol-3-yl)-1,2,3,4-tetrahydronaphthalene | C(CC)N(C1CC2=C(C=CC=C2CC1)C1=NNC(=C1)O)CCC | C19H27N3O
